US05665718
4.60 g (16.95 mmol) 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime were stirred with 3.19 g (18.65 mmol) of chloroacetic anhydride in 25 ml of N,N-dimethylformamide at room temperature for 30 minutes and at 105° for 2 hours. The reaction mixture was evaporated, the residue was dissolved in methylene chloride and the solution was washed with saturated sodium bicarbonate solution. After drying over magnesium sulfate the solution was concentrated and the crystalline residue was chromatographed on silica gel while eluting with ethyl acetate. There were obtained 3.94 g (70%) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 208°-209°.

reactant | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxamidoxime | 16.95 mmol, 4.60 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(N)=NO | C13H13N5O2
reactant | chloroacetic anhydride | 18.65 mmol, 3.19 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 3.94 g, 70% | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
